US07365066B2
4-[2-(6-Vinyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline
Add tributylvinylstanane (0.056 mL, 0.182 mmol) to a solution of 4-[2-(6-chloro-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline (59 mg, 0.165 mmol) in toluene (0.83 mL) at room temperature and bubble nitrogen through the solution for 5 minutes. Add tetrakis(triphenylphosphine) palladium (0) (9 mg, 0.008 mmol) and bubble nitrogen through the solution for 1 minute. Heat the reaction to 110° C. for 15 hours. Purify by flash column chromatography (Silica Gel, 20-40% acetone/hexanes) to provide the title compound 11.5 mg (20%) as a white solid.

reactant | 4-[2-(6-chloro-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline | 0.165 mmol, 59 mg | ClC1=CC=CC(=N1)C1=NN2C(C=CC=C2)=C1C1=CC=NC2=CC=CC=C12 | C21H13ClN4
reactant | toluene | 0.83 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.008 mmol, 9 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[2-(6-Vinyl-pyridin-2-yl)-pyrazolo[1,5-a]pyridin-3-yl]-quinoline | 11.5 mg, 20% | C(=C)C1=CC=CC(=N1)C1=NN2C(C=CC=C2)=C1C1=CC=NC2=CC=CC=C12 | C23H16N4
